US08030497B2
4-Iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbonitrile
A mixture of 50 mg (0.143 mmol) 2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbonitrile and 36 mg (0.143 mmol) iodine and 22 mg (0.072 mmol) silver sulfate in 1 ml acetic acid is stirred at reflux for 3 h. Then the filtrate is poured on 2N NaOH and extracted (3×) with ethyl acetate. The combined organic layers are washed with water (2×) and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=3:1) to afford 10 mg of the title compound as a white crystalline solid.

reactant | 2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbonitrile | 0.143 mmol, 50 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)C#N)OC | C21H23N3O2
reactant | iodine | 0.143 mmol, 36 mg | II | I2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | silver sulfate | 0.072 mmol, 22 mg | S(=O)(=O)([O-])[O-].[Ag+2]
product | 4-Iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbonitrile | 10 mg | IC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)C#N | C21H22IN3O2
